US04059431
Dimethyl 2-vinylsulfonyloxyethylphosphonate was prepared in the same way as in Example 1 from 3.8 g of dimethyl 2-hydroxyethylphosphonate, 1.9 g of pyridine and 4.0 g of 2-chloroethylsulfonyl chloride. The yield was 20 mol%. The NMR spectrum (CDCl3) of this product was as follows:

reactant | dimethyl 2-hydroxyethylphosphonate | 3.8 g | OCCP(OC)(OC)=O | C4H11O4P
reactant | 2-chloroethylsulfonyl chloride | 4.0 g | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
solvent | pyridine | 1.9 g | N1=CC=CC=C1 | C5H5N
product | Dimethyl 2-vinylsulfonyloxyethylphosphonate | C(=C)S(=O)(=O)OCCP(OC)(OC)=O | C6H13O6PS
